US05880160
In the case of thiocolchicine, the hydrolysis with hydrohalogen acids or, more preferably, with sulfuric acid (20% H2SO4 --120 h) allows one to obtain N-deacetylthiocolchicine and 3-demethyl-N-deacetylthiocolchicine in essentially quantitative yields.

reactant | thiocolchicine | CC(=O)N[C@H]1CCC2=CC(=C(C(=C2C3=CC=C(C(=O)C=C13)SC)OC)OC)OC | C22H25NO5S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | N-deacetylthiocolchicine | COC=1C=C2C(=C(C1OC)OC)C3=CC=C(C(=O)C=C3[C@H](CC2)N)SC | C20H23NO4S
